US05047430
Potassium hydroxide (6.2 g) was added to a solution of benzyl 3,4-dibenzyloxyphenylacetate (16.0 g) in methanol (200 ml), followed by stirring at room temperature for 6 hours. The reaction mixture was adjusted to pH 4.0 with 5N hydrochloric acid solution. The solvent was distilled off and to the residue was added water. The precipitated crystal was collected by filtration, washed with water and dried to obtain as colorless crystal 3,4-dibenzyloxyphenylacetic acid (10.0 g).

reactant | Potassium hydroxide | 6.2 g | [OH-].[K+]
reactant | benzyl 3,4-dibenzyloxyphenylacetate | 16.0 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)CC(=O)OCC1=CC=CC=C1 | C29H26O4
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
product | 3,4-dibenzyloxyphenylacetic acid | 10.0 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1OCC1=CC=CC=C1)CC(=O)O | C22H20O4
